US07528143B2
5-Amino-2-(2-pyrrolidin-1-yl-ethoxy)-benzoic acid methyl ester (Intermediate 55)
A suspension of 5-amino-2-hydroxy-benzoic acid methyl ester (1.0 g, 6.0 mmol), 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (1.2 g, 7.1 mmol) and cesium carbonate (5.0 g, 15 mmol) in DMF (40 mL) was heated at 60° C. for 17 h. The mixture was allowed to cool to room temperature, poured into water (60 mL) and extracted with EtOAc (2×50 mL). The combined extracts were washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated and the residue purified by flash chromatography on silica gel (DCM to 30% MeOH/DCM) to afford the title compound (0.2 g, 13%) as a light brown solid. MS (ES+): m/z 265 (M+H)+.

reactant | 5-amino-2-hydroxy-benzoic acid methyl ester | 6.0 mmol, 1.0 g | COC(C1=C(C=CC(=C1)N)O)=O | C8H9NO3
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 7.1 mmol, 1.2 g | Cl.ClCCN1CCCC1
reactant | cesium carbonate | 15 mmol, 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 60 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-Amino-2-(2-pyrrolidin-1-yl-ethoxy)-benzoic acid methyl ester | 0.2 g, 13% | COC(C1=C(C=CC(=C1)N)OCCN1CCCC1)=O | C14H20N2O3
